US04261897
Synthesis of 3-isopropylphenyl (chlorosulfinyl)(methyl)carbamate.
Four grams 3-isopropylphenyl methylcarbamate were mixed with excess thionyl chloride and heated up to 80° C. until HCl evolution ceased. Excess thionyl chloride was removed by distillation and the residue was subjected to high vacuum (0.1 mm) for 1 hour. NMR of the residue in chloroform-d-TMS gave the following absorptions: δ7.5-6.9 (m, 4H, aromatic protons). δ3.25 (s, 3H, NCH3), δ3.2-2.7 (m, 1H, CH), and δ1.3-1.2 (d, 6H, C(CH3)2).

reactant | 3-isopropylphenyl methylcarbamate | Four grams | CNC(OC1=CC(=CC=C1)C(C)C)=O | C11H15NO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | HCl | Cl | ClH
product | 3-isopropylphenyl (chlorosulfinyl)(methyl)carbamate | ClS(=O)N(C(OC1=CC(=CC=C1)C(C)C)=O)C | C11H14ClNO3S
